US04399148
To a 500 milliliter round bottom flask equipped with a water condenser, magnetic stirrer and drying tube was added 12.32 grams (0.10 mole) of 4-amino-3-methylphenol, 12.21 grams (0.10 mole) of salicylaldehyde and 250 milliliters of ethyl acetate. The resulting reaction mixture was stirred for 19 hours at room temperature and ambient pressure. After the stirring period, the reaction mixture was washed twice with saturated brine solution and decolorized with activated charcoal. The reaction mixture was then dried over magnesium sulfate, filtered and concentrated under reduced pressure to give a yellow oil which solidified on standing. The resulting solidified material was slurried in hexane, collected by filtration and dried to yield 21.12 grams (0.093 moles) of 4-(2-hydroxybenzylideneamino)-3-methylphenol in the form of a yellow solid having a melting point of 95°-97° C.

reactant | 4-amino-3-methylphenol | 0.10 mole, 12.32 grams | NC1=C(C=C(C=C1)O)C | C7H9NO
reactant | salicylaldehyde | 0.10 mole, 12.21 grams | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | ethyl acetate | 250 milliliters | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 4-(2-hydroxybenzylideneamino)-3-methylphenol | 0.093 moles, 21.12 grams | OC1=C(C=NC2=C(C=C(C=C2)O)C)C=CC=C1 | C14H13NO2
